US07291210B2
The emulsion of cetyl isooctanoate was prepared using a mixture of polyoxyethylene (20) polyoxypropylene (4) cetyl ether and polyoxyethylene (5) oleyl ether. The numbers in parentheses are the number of moles of ethyleneoxide or propyleneoxide added.

reactant | polyoxyethylene (20) polyoxypropylene (4) cetyl ether | CCCCCCCCCCCCCCCCO.CC1CO1.C1CO1
reactant | polyoxyethylene | O(CC[*:2])[*:1]
reactant | ethyleneoxide | C1CO1 | C2H4O
reactant | propyleneoxide | C1C(C)O1 | C3H6O
product | cetyl isooctanoate | C(CCCCC(C)C)(=O)OCCCCCCCCCCCCCCCC | C24H48O2
